US07846929B2
To a mixture of 4-morpholino-2-(pyridine-3-yl)thieno[3,2-d]pyrimidine-6-carboxylic acid (610 mg, 2.04 mmol), 1-hydroxy-7-azabenzotriazole (56 mg, 0.4 mmol), O-(7-azabenzotriazol-1-yl)-(N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU; 1.2 g, 3.1 mmol), and N,N-diisopropylethylamine (1.4 mL, 8.1 mmol) in DMF (3 mL) was added ammonium chloride (330 mg, 6.1 mmol). The reaction mixture was stirred overnight at room temperature. The mixture was diluted with EtOAc, washed with saturated aqueous NaHCO3 and brine. The aqueous layer was extracted with EtOAc. The combined organics were washed with saturated NaHCO3 and brine then dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by silica gel chromatography (0-20% MeOH in CH2Cl2) to afford 2-chloro-4-morpholinothieno[3,2-d]pyrimidine-6-carboxamide (490 mg, 81% yield).

reactant | 4-morpholino-2-(pyridine-3-yl)thieno[3,2-d]pyrimidine-6-carboxylic acid | 2.04 mmol, 610 mg | O1CCN(CC1)C=1C2=C(N=C(N1)C=1C=NC=CC1)C=C(S2)C(=O)O | C16H14N4O3S
reactant | 1-hydroxy-7-azabenzotriazole | 0.4 mmol, 56 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N,N,N′,N′-tetramethyluronium hexafluorophosphate | 3.1 mmol, 1.2 g | F[P-](F)(F)(F)(F)F.C[N+](=C(O)N(C)C)C
reactant | N,N-diisopropylethylamine | 8.1 mmol, 1.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ammonium chloride | 6.1 mmol, 330 mg | [Cl-].[NH4+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-chloro-4-morpholinothieno[3,2-d]pyrimidine-6-carboxamide | 490 mg, 81% yield | ClC=1N=C(C2=C(N1)C=C(S2)C(=O)N)N2CCOCC2 | C11H11ClN4O2S
